US07932246B2
N-Hydroxy 2-[5-(naphthalene-2-sulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidine-5-carboxamide—Example 76
To N-(1-isobutoxyethoxy) 2-[5-(naphthalene-2-sulfonyl)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]-pyrimidine-5-carboxamide (0.255 g, 0.5 mmol) was added TFA/DCM/MeOH (5 ml, 1:2:2 mixture). The solution was stirred for 2 h, then concentrated under vacuum. The residue was purified by reverse phase HPLC to yield the desired product (95 mg, 50%). LCMS purity >98%, m/z 440 [M+H]+, 1H NMR (300 MHz, d6-DMSO) δ: 2.90 (2H, br s), 3.24 (4H, dd, J=3.3, 10 Hz), 3.45 (2H, dd, J=6.8, 9.8 Hz), 3.61 (2H, dd, J=6.7, 11.4 Hz), 7.62-7.77 (2H, m), 7.83 (1H, dd, J=1.1, 8.5 Hz), 8.06 (1H, d, J=7.8 Hz), 8.13 (1H, d, J=8.8 Hz), 8.17 (1H, d, J=8.2 Hz), 8.47 (1H, s), 8.55 (2H, s), 11.02 (1H, s).

reactant | N-(1-isobutoxyethoxy) 2-[5-(naphthalene-2-sulfonyl)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]-pyrimidine-5-carboxamide | 0.5 mmol, 0.255 g | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2CN(CC2C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C27H33N5O5S
reactant | TFA DCM MeOH | 5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl.CO
product | N-Hydroxy 2-[5-(naphthalene-2-sulfonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyrimidine-5-carboxamide | 95 mg, 50% | ONC(=O)C=1C=NC(=NC1)N1CC2CN(CC2C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C21H21N5O4S
